US04387238
Following the procedure of Example 1, monoethyl potassium epoxysuccinate (1.0 g) was successively treated with oxalyl chloride (0.75 g) and benzylamine (1.02 g) to give 0.54 g of ethyl N-benzyl-2,3-epoxysuccinamate (Compound No. 13) as colorless needles melting at 90°-91° C.

reactant | monoethyl potassium epoxysuccinate | 1.0 g | O1C(C(=O)O)C1C(=O)O.C(C)[K]
reactant | oxalyl chloride | 0.75 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | benzylamine | 1.02 g | C(C1=CC=CC=C1)N | C7H9N
product | ethyl N-benzyl-2,3-epoxysuccinamate | 0.54 g | C(C1=CC=CC=C1)NC(C1C(C(=O)OCC)O1)=O | C13H15NO4
